US09056852B2
To a mixture of 2-methyl-1-phenyl-2-propanol (1.5 g, 10 mmol) and acetonitrile (3 mL) in acetic acid (15 mL) was added concentrated sulfuric acid (3 mL) dropwise at room temperature. The mixture was stirred at 65° C. for 3 hours and then poured into ice-water (ca. 200 mL). The aqueous solution was basified with saturated aqueous sodium hydroxide until pH>11. The suspension was stirred for further 0.5 hour, and then the precipitated solid was filtered and washed with water. The white solid was air-dried to give N-(2-methyl-1-phenylpropan-2-yl)acetamide (1.5 g, 78% yield), which was used for the next step without further purification.

reactant | 2-methyl-1-phenyl-2-propanol | 10 mmol, 1.5 g | CC(CC1=CC=CC=C1)(C)O | C10H14O
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | N-(2-methyl-1-phenylpropan-2-yl)acetamide | 1.5 g, 78% yield | CC(CC1=CC=CC=C1)(C)NC(C)=O | C12H17NO
